US05008263
Gaseous methylamine was bubbled through a suspension of 2-chloro-3-nitroquinoline (1.06 g, 5.1 mmol) in ethanol (20 ml) at 0° C. for 15 minutes. The solvent was removed under reduced pressure and the bright red residue was dissolved in dichloromethane (100 ml) and washed with saturated aqueous sodium bicarbonate (50 ml). The organic layer was dried (MgSO4) and concentrated under reduced pressure to give 2-methylamino-3-nitroquinoline (940 mg, 91%) as a red solid, m.p. 160° C.

reactant | methylamine | CN | CH5N
reactant | 2-chloro-3-nitroquinoline | 5.1 mmol, 1.06 g | ClC1=NC2=CC=CC=C2C=C1[N+](=O)[O-] | C9H5ClN2O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-methylamino-3-nitroquinoline | 940 mg, 91% | CNC1=NC2=CC=CC=C2C=C1[N+](=O)[O-] | C10H9N3O2
